US08748453B2
Preparation of N-(3-ethynylphenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-amine
A solution of 4-(3-ethynylphenylamino)-7-methoxyquinazolin-6-ol (2.9 g, 0.01 mol), 2-methoxyethyl methane sulfonate (4.6 g, 0.03 mol, 3 equiv), and cesium carbonate (9.9 g, 0.03 mol, 3 equiv) in DMF (100 ml) was heated to 60° C. for 12 hours. The reaction mixture was cooled to room temperature and poured into cold water, the solid was filtrated and dried to give 1.5 g product. MS (ESI) m/z: 350 (M+1).

reactant | 4-(3-ethynylphenylamino)-7-methoxyquinazolin-6-ol | 0.01 mol, 2.9 g | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O)OC | C17H13N3O2
reactant | 2-methoxyethyl methane sulfonate | 0.03 mol, 4.6 g, 3 equiv | CS(=O)(=O)OCCOC | C4H10O4S
reactant | cesium carbonate | 0.03 mol, 9.9 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-(3-ethynylphenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4-amine | 1.5 g | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OCCOC)OC | C20H19N3O3
